US07087626B2
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol
To a solution of 7-methoxy-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline (53 mg, 0.16 mmol) in N,N-dimethylformamide (3 mL) at room temperature is added sodium ethanthiolate (133 mg, 1.6 mmol). The solution is refluxed for 4 h, cooled, and concentrated in vacuo. The residue is dissolved in methanol and loaded onto an SCX column. The column is washed with water, methanol, and 7 N ammonia in methanol. The appropriate fraction is concentrated in vacuo to yield the title compound, 28 mg (56%), as a yellow solid.

reactant | 7-methoxy-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | 0.16 mmol, 53 mg | COC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C21H18N4O
reactant | sodium ethanthiolate | 1.6 mmol, 133 mg | C(C)[S-].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
